US05989611
sodium tripolyphosphate;
higher condensed sodium polyphosphates, e.g., sodium hexametaphosphate, hexasodium tetraphosphate (Graham's Salt);

reactant | sodium hexametaphosphate | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | hexasodium tetraphosphate | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
product | sodium tripolyphosphate | [O-]P(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/5Na.H5O10P3/c;;;;;1-11(2,3)9-13(7,8)10-12(4,5)6/h;;;;;(H,7,8)(H2,1,2,3)(H2,4,5,6)/q5*+1;/p-5
